US09023846B2
To a stirred solution of 2,6-dichloro-3-nitro-pyridin-4-ylamine (20.0 g, 96.1 mmol) in MeOH (100 mL) was added 0.5 M NaOMe in MeOH (423 mL, 211 mmol) dropwise. The resulting mixture was stirred at room temperature for 3 h. The resulting mixture was then concentrated to ca. ⅓ of the volume and slowly poured into saturated NH4Cl solution (200 mL). The resulting mixture was extracted with EtOAc (3×150 mL). The combined EtOAc extracts were dried (Na2SO4), and concentrated in vacuo to yield a tan solid which was suspended in hexane (500 mL) and sonicated for 10 min. The resulting solid was collected by suction filtration and dried under suction to yield 6-chloro-2-methoxy-3-nitro-pyridin-4-ylamine as a powder. 1H-NMR (400 MHz, CDCl3) δ: 6.39 (s, 1H), 6.28 (br s, 2H), 4.05 (s, 3H).

reactant | 2,6-dichloro-3-nitro-pyridin-4-ylamine | 96.1 mmol, 20.0 g | ClC1=NC(=CC(=C1[N+](=O)[O-])N)Cl | C5H3Cl2N3O2
reactant | NaOMe | 0.5 M | C[O-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
solvent | hexane | 500 mL | CCCCCC | C6H14
solvent | MeOH | 211 mmol, 423 mL | CO | CH4O
product | 6-chloro-2-methoxy-3-nitro-pyridin-4-ylamine | ClC1=CC(=C(C(=N1)OC)[N+](=O)[O-])N | C6H6ClN3O3
